US08133901B2
(R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid[1-(2-methyl-5-p-tolyl-thiazole-4-carbonyl)-piperidin-3-yl]-amide
prepared by reaction of 2-methyl-5-p-tolyl-thiazole-4-carboxylic acid with (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide.

reactant | 2-methyl-5-p-tolyl-thiazole-4-carboxylic acid | CC=1SC(=C(N1)C(=O)O)C1=CC=C(C=C1)C | C12H11NO2S
reactant | (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide | N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C12H16N4OS
product | (R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid[1-(2-methyl-5-p-tolyl-thiazole-4-carbonyl)-piperidin-3-yl]-amide | CC=1SC(=C(N1)C(=O)N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C)C2=CC=C(C=C2)C | C24H25N5O2S2
